US07576072B2
Step H: Preparation of 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester:
To a solution of 7-fluoro-6-(2-fluorophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester (1.00 equivalent) in DMF is added NBS (1.20 equivalents) at room temperature. After stirring for 16 hours at room temperature, the reaction mixture is diluted with EtOAc and washed with water. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 7-fluoro-6-(2-fluorophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester | 1.00 equivalent | COC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)NC2=C(C=CC=C2)F | C15H12F2N4O2
reactant | NBS | 1.20 equivalents | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-bromo-2-fluorophenylamino)-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)NC2=C(C=C(C=C2)Br)F | C15H11BrF2N4O2
